US07851473B2
(2) N-(6-Aminopyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (6-aminopyridin-3-yl)carbamate (210 mg, 0.738 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.129 ml, 0.738 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 days. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by high performance liquid chromatography (YMC HPLC Column eluted with 10% to 100% Liquid A; Liquid A: a 0.1% solution of trifluoroacetic acid in acetonitrile; Liquid B: an aqueous 0.1% trifluoroacetic acid solution) and recrystallized from a mixed solvent of hexane and ethyl acetate to give 90.8 mg (32.3%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (6-aminopyridin-3-yl)carbamate | 0.738 mmol, 210 mg | NC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C8H8Cl3N3O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.738 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(6-Aminopyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 90.8 mg, 32.3% | NC1=CC=C(C=N1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C18H19N7OS
